US07829699B2
Step 1: Ethyl 4-[(2-chloropyridin-3-yl)amino]piperidine-1-carboxylate
To a 1 L three-neck RB-flask equipped with a mechanical agitator and temperature probe was charged 3-amino-2-chloropyridine (37.9 g, 0.294 mol, 100 mol %) and ethyl 4-oxo-1-piperidinecarboxylate (55.5 g, 0.324 mol, 110 mol %) followed by IPAC (500 mL). The mixture became homogeneous after 5 min agitation (16° C.). Trifluoroacetic acid (44 mL, 0.590 mol, 200 mol %) was charged to the mixture over 30 s, causing an increase in temperature to 25° C. (no cooling used). Sodium triacetoxyborohydride (75.0 g, 0.354 mol, 120 mol %) was added as a solid over 5 min and a further increase in temperature to 56° C. was observed. After 10 min agitation, the mixture was clear and homogeneous. LC analysis indicated consumption (<0.5 A %) of 3-amino-2-chloropyridine and formation of the alkylated product. A solution of 10 wt % aqueous NaOH was added to the mixture at 50° C. over 10 min. When the pH of the mixture was 8-9, the phases were allowed to separate. The organic phase washed with brine (200 mL). The separated aqueous phase was 580 mL-100 μL sample was diluted in 100 mL MeOH and LC analysis indicated 0.23 g, 0.3% of product was present. The brine was assayed as above and contained negligible product. Azeotropic drying with IPAC was conducted at atmospheric pressure under constant volume conditions until the water content was <500 ppm by KF titration. The solution was concentrated to a volume of 170 mL then THF (35 ppm H2O, 230 mL) was added. This solution was used directly for the subsequent step. LC analysis gave 84 g, 101% AY of the desired reductively alkylated product and KF titration gave water content as <500 ppm.

reactant | 3-amino-2-chloropyridine | 0.294 mol, 37.9 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | ethyl 4-oxo-1-piperidinecarboxylate | 0.324 mol, 55.5 g | O=C1CCN(CC1)C(=O)OCC | C8H13NO3
reactant | Trifluoroacetic acid | 0.590 mol, 44 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium triacetoxyborohydride | 0.354 mol, 75.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | KF | [F-].[K+]
solvent | water | O | H2O
product | Ethyl 4-[(2-chloropyridin-3-yl)amino]piperidine-1-carboxylate | ClC1=NC=CC=C1NC1CCN(CC1)C(=O)OCC | C13H18ClN3O2
